US06399629B1
(A) N-tert-Butoxycarbonyl-D-homophenylalaninol
N-tert-butoxycarbonyl-D-homophenylalanine (36 mmol) was dissolved in tetrahydrofuran (THF) (300 mL) and cooled to 0° C. Borane-THF complex (0.32 M in THF, 320 mL, 9 equivalents) was added dropwise over 2 hr and the solution stirred for an additional 2 hr at 0° C. The reaction mixture was quenched over several hours by the slow addition of MeOH (300 mL) and the resulting solution was concentrated to dryness. The residue was dissolved in EtOAc (200 mL), washed with 1 N NaOH (2×100 mL) and brine (1×75 mL). The organic layer was dried over Na2SO4, filtered and the filtrate concentrated to dryness. Recrystallization from hexanes gave the title compound (6.5 g, 84%) as a white solid: 1H NMR (CDCl3) δ 1.57 (9H, s), 1.91-1.93 (2H, m), 2.77-2.85 (2H, m), 3.68-3.82 (3H, m), 7.29-7.42 (5H, m); MS m/e 288 (100, M+1).

reactant | N-tert-butoxycarbonyl-D-homophenylalanine | 36 mmol | C(C)(C)(C)OC(=O)N[C@H](CCC1=CC=CC=C1)C(=O)O | C15H21NO4
reactant | Borane THF | 0.32 M, 320 mL, 9 equivalents | B.O1CCCC1
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | N-tert-Butoxycarbonyl-D-homophenylalaninol | 6.5 g, 84% | C(C)(C)(C)OC(=O)N[C@H](CCC1=CC=CC=C1)CO | C15H23NO3
